US09353108B2
A) 2,3,4′-Trifluorobiphenyl-4-carbaldehyde
(4-Fluorophenyl)boronic acid (6.67 g), dicyclohexyl(2′,6′-dimethoxybiphenyl-2-yl)phosphine (1.96 g), a 2 M aqueous sodium carbonate solution (47.6 mL), and tris(dibenzylideneacetone)dipalladium(0) (2.04 g) were added at room temperature to a toluene (200 mL) solution of 4-bromo-2,3-difluorobenzaldehyde (7.02 g), and the mixture was stirred at 100° C. for 16 hours in an argon atmosphere. Water was added to the reaction mixture at room temperature, and the mixture was filtered through celite. Then, the filtrate was subjected to extraction with ethyl acetate. The obtained organic layer was washed with water and saturated saline in this order and dried over anhydrous magnesium sulfate, and then, the solvent was distilled off under reduced pressure. The obtained residue was passed through a short silica gel column (hexane/ethyl acetate), and the solvent was distilled off under reduced pressure. The obtained residue was crystallized (hexane/ethyl acetate) and further recrystallized (hexane/ethyl acetate) to obtain the title compound (6.01 g).

reactant | (4-Fluorophenyl)boronic acid | 6.67 g | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | dicyclohexyl(2′,6′-dimethoxybiphenyl-2-yl)phosphine | 1.96 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
reactant | sodium carbonate | 2 M, 47.6 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-bromo-2,3-difluorobenzaldehyde | 7.02 g | BrC1=C(C(=C(C=O)C=C1)F)F | C7H3BrF2O
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 2.04 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | Water | O | H2O
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | 2,3,4′-Trifluorobiphenyl-4-carbaldehyde | 6.01 g | FC1=C(C=CC(=C1F)C=O)C1=CC=C(C=C1)F | C13H7F3O
